US05358950
33.4 g of 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine, prepared in Example 12, are dissolved in 600 ml of tetrahydrofuran. 15.2 g of carbonyldiimidazole are added and the mixture is heated to reflux for 1 h 30 min. The solvent is evaporated off under vacuum and the residue is taken up with water and then extracted with chloroform. The organic phase is dried over magnesium sulphate and evaporated under vacuum; the residue obtained crystallises in an ether/ethyl acetate mixture to give 26.4 g of 7-n-propyl-5-methyl-8-[(2'-cyano-4-biphenylyl)methyl]-1,2,4-triazolo-[4,3-c]pyrimidin-3(2H)-one in the form of crystals of melting point 196° C.

reactant | 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 33.4 g | C(CC)C1=C(C(=NC(=N1)C)NN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H23N5
reactant | carbonyldiimidazole | 15.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 7-n-propyl-5-methyl-8-[(2'-cyano-4-biphenylyl)methyl]-1,2,4-triazolo-[4,3-c]pyrimidin-3(2H)-one | 26.4 g | C(CC)C1=C(C=2N(C(=N1)C)C(NN2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N | C23H21N5O
